US05843906
Scheme I describes a synthesis of a pyridyl β-amino acid which can be used to synthesize compounds of the present invention wherein R1 is pyridyl. The reaction can be modified using conventional methodology to prepare other aroma substituted or heterocyclic substituted β-amino acids by substitution of the pyridyl carboxaldehyde with any other appropriate aldehyde. Briefly, in Scheme I to pyridine-carboxaldehyde in isopropanol is added ammonium acetate followed by malonic acid. The reaction mixture is stirred at reflux, the resulting precipitate filtered and washed with hot isopropanol and dried to yield 3-amino-3-(3-pyridyl)propionic acid. The ethyl ester is synthesized by heating this acid in excess ethanol in the presence of excess HCl gas.

reactant | pyridine-carboxaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-amino-3-(3-pyridyl)propionic acid | NC(CC(=O)O)C=1C=NC=CC1 | C8H10N2O2
